US06794401B2
Preparation of methyl-2-[(t-butoxycarbonyl)amino]-3-[-(4-formylphenoxy)phenyl]propanoate
To a suspension of fresh sodium hydride (0.813 g, 33.9 mmol) in dry DMF (20 ml) under nitrogen atmosphere was added the solution of methyl-2-[(t-butoxycarbonyl)amino]-3-(4-hydroxyphenyl)propanoate (10 g, 33.9 mmol) in DMF (20 ml) slowly. The mixture was stirred for 15 minutes. 4-Fluorobenzaldehyde (4.20 g, 33.9 mmol) was added and the mixture was heated to 80° C. After completion of the reaction, the solvent was removed by high vacuum and the mixture was quenched with addition of saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate (3×50 ml). After washing with brine and dried on anhydrous sodium sulfate, the solvent was evaporated and the product was purified with flash column from eluent of hexanes: ethyl ether; 12/30 to 12/22 to afford the title compound as an oil (yield 11.5 g, 85.0%).

reactant | sodium hydride | 33.9 mmol, 0.813 g | [H-].[Na+]
reactant | methyl-2-[(t-butoxycarbonyl)amino]-3-(4-hydroxyphenyl)propanoate | 33.9 mmol, 10 g | COC(C(CC1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C15H21NO5
reactant | 4-Fluorobenzaldehyde | 33.9 mmol, 4.20 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl-2-[(t-butoxycarbonyl)amino]-3-[-(4-formylphenoxy)phenyl]propanoate | yield 11.5 g, 85.0% | COC(C(CC1=C(C=CC=C1)OC1=CC=C(C=C1)C=O)NC(=O)OC(C)(C)C)=O | C22H25NO6
